* Z:\mnt\design.r\spice\examples\3813.asc
V1 IN 0 PWL(0 0 1m 24)
R1 OUT N003 806K
M§Q1 IN N001 N002 N002 IRF1310
R2 IN N001 100K
D1 N002 N005 1N4148
C1 N005 N007 .1µ
C2 N002 0 1µ
L1 IN N007 10µ
D2 N007 OUT MBRS1100
R3 OUT N014 30.9K
R4 N014 0 499
C3 OUT 0 500µ
C4 N012 N014 330p
C5 N010 0 1000p
M§Q2 N007 N013 0 0 Si7850DP
XU1 N003 MP_01 MP_02 N004 N002 NC_03 N008 N012 N014 N011 N010 0 N009 N002 N001 0 N002 N002 N013 0 0 MP_04 MP_05 MP_06 N007 N007 N006 N005 LTC3813
M§Q3 OUT N006 N007 N007 Si7850DP
V2 N009 0 PWL(1m 0 1.01m 2)
R5 IN N004 143K
R6 N004 0 10K
V3 N008 0 SINE(1 1 250K)
C7 N011 0 .01µ
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5m
.lib LTC3813.sub
.backanno
.end
